US07820680B2
Step 8: 7-Isopropyl-9-methoxy-2-(quinolin-2-ylmethyl)-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione
To a cold solution (0° C.) of 7-isopropyl-9-methoxy-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione (0.050 g, 0.197 mmol) in DMF (1.5 mL) was added 2-(chloromethyl)quinoline hydrochloride (0.051 g, 0.237 mmol). Sodium hydride (60% suspension in mineral oil, 0.022 g, 0.868 mmol) was added. The mixture was warmed to room temperature and stirred for 24 hours. The reaction mixture was partitioned between water and EtOAc. The organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was used in the next step without purification. HPLC RT=3.47 min (Method A); ES MS (M+H)=395.3.

reactant | 7-isopropyl-9-methoxy-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione | 0.197 mmol, 0.050 g | C(C)(C)N1C(N2C(=C(C1=O)OC)C(NCC2)=O)=O | C11H15N3O4
reactant | 2-(chloromethyl)quinoline hydrochloride | 0.237 mmol, 0.051 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | Sodium hydride | 0.868 mmol, 0.022 g | [H-].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 7-Isopropyl-9-methoxy-2-(quinolin-2-ylmethyl)-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione | C(C)(C)N1C(N2C(=C(C1=O)OC)C(N(CC2)CC2=NC1=CC=CC=C1C=C2)=O)=O | C21H22N4O4
